US06008230
To a stirred suspension of 8-(2,6-dichlorobenzoylamino)-4-formylquinoline (100 mg), N-(2-methoxyethyl)methylamine (28 mg) and acetic acid (17 mg) was added sodium triacetoxyborohydride (91.6 mg) portionwise over a period of 5 minutes at ambient temperature, and the resulting mixture was stirred at the same temperature for four hours. The crude product was partitioned in dichloromethane and aqueous saturated sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered, evaporated under reduced pressure. The residue was purified by a preparative thin layer chromatography (5%0 methanoldichloromethane) and recrystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-[N-(2-methoxyethyl)-N-methylaminomethyl]quinoline (77 mg) as a colorless powder.

reactant | 8-(2,6-dichlorobenzoylamino)-4-formylquinoline | 100 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)C=O)C(=CC=C1)Cl | C17H10Cl2N2O2
reactant | N-(2-methoxyethyl)methylamine | 28 mg | COCCNC | C4H11NO
reactant | sodium triacetoxyborohydride | 91.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 17 mg | C(C)(=O)O | C2H4O2
product | 8-(2,6-dichlorobenzoylamino)-4-[N-(2-methoxyethyl)-N-methylaminomethyl]quinoline | 77 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)CN(C)CCOC)C(=CC=C1)Cl | C21H21Cl2N3O2
